US08071768B2
4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-pyrimidin-5-yl-phenyl)-amide
To a suspension of 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-iodo-phenyl)-amide (58.2 mg, 0.11 mmol), as prepared in Example 2b, in 1 mL of toluene/EtOH (4:1, v/v) were added pyrimidine-5-boronic acid (15.3 mg, 0.12 mmol), Pd(PPh3)4 (6.5 mg) and 2M K2CO3 solution (0.23 mL). The reaction mixture was heated at 100° C. overnight. It was concentrated under reduced pressure and the black residue was purified by flash column chromatography on silica gel (5% MeOH/EtOAc as eluent) to afford the desired product (18.4 mg, 35.6% yield). 1H NMR (300 MHz, CDCl3) δ 9.17 (s, 1H), 9.09 (s, 1H), 8.94 (s, 2H), 7.55 (s, 4H), 7.38 (s, 1H), 7.27 (s, 1H), 6.59 (s, 1H), 4.32 (m, 2H), 4.09 (s, 3H), 4.08 (s, 3H), 3.65 (m, 1H), 3.23 (m, 2H), 2.19 (m, 2H), 2.03 (m, 2H). LC-MS (ESI) calcd mass 470.2, found 471.3 (MH+).

reactant | 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-iodo-phenyl)-amide | 0.11 mmol, 58.2 mg | IC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C22H23IN4O3
reactant | pyrimidine-5-boronic acid | 0.12 mmol, 15.3 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | K2CO3 | 2M, 0.23 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene EtOH | 1 mL | C1(=CC=CC=C1)C.CCO
catalyst | Pd(PPh3)4 | 6.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-pyrimidin-5-yl-phenyl)-amide | 18.4 mg, 35.6% yield | N1=CN=CC(=C1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C26H26N6O3
